US05145961
0.5 mol of fluorine in the form of a 30% by volume mixture with helium was introduced into a suspension of 36.7 g (0.2 mol) of 2,4,6-trichloropyrimidine, 21 g of sodium fluoride (0.5 mol) and 250 ml of trichlorofluoromethane, at a temperature of -78° C. The rate of introduction was 0.15 mol of fluorine per hour. After the introduction, the reaction mixture was filtered and 19.3 g of pure 5-fluoro-2,4,6-trichloropyrimidine were obtained from the filtrate by distillation over iron filings. This corresponds to a yield of 48% of theory. The boiling point of the isolated product was 80°-87° C. at 10 mbar. The reaction mixture also contained more highly fluorinated pyrimidine derivatives.

reactant | fluorine | 0.5 mol | FF | F2
reactant | 2,4,6-trichloropyrimidine | 0.2 mol, 36.7 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | sodium fluoride | 0.5 mol, 21 g | [F-].[Na+]
reactant | fluorine | 0.15 mol | FF | F2
solvent | trichlorofluoromethane | 250 ml | ClC(F)(Cl)Cl | CCl3F
product | 5-fluoro-2,4,6-trichloropyrimidine | 19.3 g, yield of 48% | FC=1C(=NC(=NC1Cl)Cl)Cl | C4Cl3FN2
